US07300739B2
2-hydroxy-2,2-dimethylethyl methacrylate (If) (R=CH3)
A mixture of 1-chloromethyl-2-methyl-2-propanol (21.80 g, 0.20 mole), sodium methacrylate (32.40 g, 0.30 mole), Adogen 464 (7.00 g, 0.015 mole) (phase transfer catalyst purchased from Aldrich Chemical Co.), and phenothiazine (60 mg) in butyronitrile (200 ml) was heated to reflux under nitrogen in a three-necked round bottomed flask equipped with a condenser and a mechanical stirrer. After cooling the contents to room temperature, the mixture was diluted with hexane (200 ml) and filtered through celite. The solvents were removed under aspirator vacuum (40-80° C.). The residue was distilled under high vacuum. The 22.50 grams of the product was collected between 72-80° C. at 2 mm pressure as a clear liquid.

reactant | 1-chloromethyl-2-methyl-2-propanol | 0.20 mole, 21.80 g | ClCCC(C)(O)C | C5H11ClO
reactant | sodium methacrylate | 0.30 mole, 32.40 g | C(C(=C)C)(=O)[O-].[Na+]
reactant | phenothiazine | 60 mg | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
catalyst | Adogen 464 | 0.015 mole, 7.00 g | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | butyronitrile | 200 ml | C(CCC)#N | C4H7N
solvent | hexane | 200 ml | CCCCCC | C6H14
product | 2-hydroxy-2,2-dimethylethyl methacrylate | C(C(=C)C)(=O)OCC(C)(C)O | C8H14O3
